US07829560B2
N-[4-({2-[(1,3-Dioxolan-2-ylmethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-piperidin-1-ylbenzamide (Compound B411).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and C-[1,3]dioxolan-2-yl-methylamine according to conditions described in general procedure C. Mp: 96-98° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.57-1.61 (m, 6 H), 3.27-3.30 (m, 4 H), 3.60-3.89 (m, 6 H), 4.70-4.89 (bd, 1 H), 6.20-6.34 (bd, 1 H), 6.94-6.99 (m, 1 H), 7.14-7.21 (m, 2 H), 7.40 (d, J=8.0 Hz, 1 H), 7.44 (s, 1 H), 7.52-7.61 (m, 3 H), 7.81 (d, J=7.3 Hz, 1 H), 7.96-7.98 (m, 1 H), 8.21 (s, 1 H), 10.42 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | C-[1,3]dioxolan-2-yl-methylamine | O1C(OCC1)CN | C4H9NO2
product | N-[4-({2-[(1,3-Dioxolan-2-ylmethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-piperidin-1-ylbenzamide | O1C(OCC1)CNC1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C30H30FN5O4
